US08022205B2
To a solution of 4-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-benzaldehyde (76 mg, 0.118 mmol) in dichloromethane (2 ml), 1-methylpiperazine (40 μl, 0.354 mmol), sodium triacetoxy borohydride (100 mg, 472 mmol) and acetic acid (12.6 μl, 0.236 mmol) were added, followed by stirring at room temperature for 40 hours. To the reaction mixture, saturated aqueous ammonium chloride solution was added, followed by extraction twice with ethyl acetate (10 ml). The organic layer was washed with brine (10 ml), and dried over sodium sulfate, followed by distilling off under reduced pressure, and the resulting residue was purified by silica gel column chromatography (dichloromethane/2M-ammonia methanol=100/1 to 30/1), whereby bis-(4-methoxy-benzyl)-(5-{7-[4-(4-methyl-piperazin-1-ylmethyl)-phenyl]-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}-pyrimidin-2-yl)-amine was obtained as a brown powder (44 mg, 51%).

reactant | 4-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-benzaldehyde | 0.118 mmol, 76 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)N(CC3)C3=CC=C(C=O)C=C3)CC3=CC=C(C=C3)OC)C=C1 | C37H37N7O4
reactant | 1-methylpiperazine | 0.354 mmol, 40 μl | CN1CCNCC1 | C5H12N2
reactant | sodium triacetoxy borohydride | 472 mmol, 100 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.236 mmol, 12.6 μl | C(C)(=O)O | C2H4O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | bis-(4-methoxy-benzyl)-(5-{7-[4-(4-methyl-piperazin-1-ylmethyl)-phenyl]-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}-pyrimidin-2-yl)-amine | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)N(CC3)C3=CC=C(C=C3)CN3CCN(CC3)C)CC3=CC=C(C=C3)OC)C=C1 | C42H49N9O3
